US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (3.0 g, 7.82 mmol) with 4-methoxyphenylboronic acid (1.78 g, 11.74 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.307 g, 0.391 mmol), and potassium carbonate (2.70 g, 19.57 mmol) generally according to the procedure described for Intermediate 37 provided 2.2 g (68%) of (±)-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a yellow solid. mp 116-117° C.; Anal. calcd. for C23H22O5S: C, 67.30; H, 5.40. Found: C, 67.31; H, 5.35.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 7.82 mmol, 3.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 4-methoxyphenylboronic acid | 11.74 mmol, 1.78 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 19.57 mmol, 2.70 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.391 mmol, 0.307 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.2 g, 68% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)OC | C23H22O5S
